US08003655B2
Intermediate 2: Preparation of (R)-2-(2-chloro-5-iodopyrimdin-4-ylamino)propan-1-ol
To a solution of 2,4-dichloro-5-iodopyrimidine (3.0 g; 10.9 mol) in acetonitrile (35 mL) was added triethylamine (1.32 g, 1.82 mL, 13.1 mmol), followed by (R)-2-aminopropanol (0.88 g, 11.8 mmol). The mixture was stirred at room temperature for 24 h and was then diluted with ethyl acetate, followed by extraction with brine, 10% aqueous citric acid, and aqueous sodium bicarbonate. After drying over sodium sulfate, the solvent was evaporated and the residue was purified by column chromatography to give the title compound (3.0 g, 88% yield).

reactant | 2,4-dichloro-5-iodopyrimidine | 10.9 mol, 3.0 g | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | triethylamine | 13.1 mmol, 1.82 mL, 1.32 g | C(C)N(CC)CC | C6H15N
reactant | (R)-2-aminopropanol | 11.8 mmol, 0.88 g | N[C@@H](CO)C | C3H9NO
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-(2-chloro-5-iodopyrimdin-4-ylamino)propan-1-ol | 3.0 g, 88% yield | ClC1=NC=C(C(=N1)N[C@@H](CO)C)I | C7H9ClIN3O
